US04757081
To 300 ml of toluene were added 6.2 g (0.022 mole) of N,1-bis(2-chlorophenyl)propaneimine, 3.9 g (0.022 mole) of ethyl phenylpropiolate and 3.6 g (0.027 mole) of aluminum chloride. After heating the reaction mixture with stirring at 60° C. for 4 days, the reaction mixture was poured into 500 ml of 2N sulfuric acid, followed by extraction with dichloromethane. After washing the organic layer with water, it was dried over anhydrous sodium sulfate. Subsequent to removal of the sodium sulfate, the solvent was distilled off and the residue was subjected to column chromatography (eluent: ethyl acetate) to obtain two types of atrop-isomers of 1,2-bis(2-chlorophenyl)-3-methyl-6-phenyl-4(1H)-pyridinone, namely, 0.6 g of Compound 335 and 0.2 g of Compound 336, of which the melting points were 205°-207° C. and 232°-234° C., respectively.

reactant | N,1-bis(2-chlorophenyl)propaneimine | 0.022 mole, 6.2 g | ClC1=C(C=CC=C1)N=C(CC)C1=C(C=CC=C1)Cl | C15H13Cl2N
reactant | ethyl phenylpropiolate | 0.022 mole, 3.9 g | C1(=CC=CC=C1)C#CC(=O)OCC | C11H10O2
reactant | aluminum chloride | 0.027 mole, 3.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sulfuric acid | 2N, 500 ml | S(O)(O)(=O)=O | H2O4S
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-bis(2-chlorophenyl)-3-methyl-6-phenyl-4(1H)-pyridinone | ClC1=C(C=CC=C1)N1C(=C(C(C=C1C1=CC=CC=C1)=O)C)C1=C(C=CC=C1)Cl | C24H17Cl2NO
